US07807676B2
Part A: To a solution of 2-aminopyridine (9.41 g, 100 mmol) in methylene chloride (200 mL) at 25° C. was added thiocarbonyl diimidazole (18.75 g, 100 mmol), and the resulting mixture was stirred at 25° C. for 20 h. To the reaction mixture then was added tert-butyl piperazine-1-carboxylate (18.60 g, 100 mmol), and the resulting mixture was stirred at 25° C. for another 24 h. The mixture was diluted with diethyl ether, washed with water (×3) and brine, dried over anhyd. sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 0-20% diethyl ether/methylene chloride) to afford tert-butyl 4-(pyridin-2-ylcarbamothioyl)piperazine-1-carboxylate (13.60 g) as a colorless solid, following crystallization from a mixture of 1-chlorobutane/hexane; 1H NMR (300 MHz, CDCl3) δ 7.97 (m, 1H), 7.64 (m, 2H), 6.88 (m, 1H), 4.00 (m, 4H), 3.51 (m, 4H), 1.44 (s, 9H).

reactant | 2-aminopyridine | 100 mmol, 9.41 g | NC1=NC=CC=C1 | C5H6N2
reactant | thiocarbonyl diimidazole | 100 mmol, 18.75 g | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
reactant | tert-butyl piperazine-1-carboxylate | 100 mmol, 18.60 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-butyl 4-(pyridin-2-ylcarbamothioyl)piperazine-1-carboxylate | 13.60 g | N1=C(C=CC=C1)NC(=S)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N4O2S
